US07888376B2
A dry 250 mL pear-shaped flask was equipped with a stir bar and fitted to an adapter connected to the vacuum line. The flask was dried with a heat gun under vacuum, cooled and then purged several times with nitrogen. Under a stream of nitrogen, 3-(trifluoromethoxy)bromobenzene (5.2 g, 21.5 mmoles) was added to the flask and dissolved in anhydrous ether (120 mL). The flask was fitted with a septum which was connected to the nitrogen line via a 16 gauge 1½ PrecisionGlide® needle. The stirring solution was cooled to −78° C. for 10 minutes, n-BuLi (1.6M in hexanes, 13.5 mL. 21.5 mmoles) was added drop wise. After 15 minutes, a solution of 2-cyanopyridine (2.99 g, 21.5 mmoles) in anhydrous THF (20 mL) was added from a syringe. The reaction was stirred for 2 hours at −78° C. and trimethylchlorosilane (2.73 mL, 21.5 mmoles) was added. The reaction vessel was removed from the acetone/dry ice bath and the reaction was allowed to warm up to room temperature. After 30 minutes, the reaction vessel was cooled to −78° C., Benzylmagnesium chloride (2.0M in THF, 10.75 mL, 21.5 mmoles) was added and the reaction was allowed to slowly warm to room temperature. The reaction was quenched with H2O (50 mL). The crude product was poured into 200 mL ethyl acetate in a 1000 mL separatory funnel. The light brown solution was washed with saturated aqueous NH4Cl (3×100 mL), then with water (2×100 mL). The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The crude residue was purified by column chromatography on a silica gel ISCO with 100-90% hexanes in ethylacetate to yield 1-(5-chloropyridin-2-yl)-2-phenyl-1-(3-(trifluoromethoxy)phenyl)ethanamine 3.63 g (43% yield). LC-MS (methanol) [M+1]=393 1H NMR (CDCl3) δ1.85 (broad s, 2H), δ 3.49 (d, J=13.20, 1 H), δ 3.87 (d, J=13.20, 1 H), δ6.78-6.80 (d, 2 H), δ 7.08 (d, 1 H) δ 7.12-7.42 (m, 7 H), δ7.58-7.56 (dd, 1 H), δ 8.55 (d, 1 H).

reactant | 3-(trifluoromethoxy)bromobenzene | 21.5 mmoles, 5.2 g | FC(OC=1C=C(C=CC1)Br)(F)F | C7H4BrF3O
reactant | n-BuLi | 21.5 mmoles, 1.6M, 13.5 mL | [Li]CCCC
reactant | 2-cyanopyridine | 21.5 mmoles, 2.99 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | trimethylchlorosilane | 21.5 mmoles, 2.73 mL | C[Si](Cl)(C)C | C3H9ClSi
reactant | Benzylmagnesium chloride | 21.5 mmoles, 2.0M, 10.75 mL | C(C1=CC=CC=C1)[Mg]Cl
solvent | ether | 120 mL | CCOCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(5-chloropyridin-2-yl)-2-phenyl-1-(3-(trifluoromethoxy)phenyl)ethanamine | 3.63 g, 43% yield | ClC=1C=CC(=NC1)C(CC1=CC=CC=C1)(N)C1=CC(=CC=C1)OC(F)(F)F | C20H16ClF3N2O
